US06329381B1
6-Amino-9-(4-fluorobenzyl)-2-(2-methoxyethoxy)purine
6-Amino-9-(4-fluorobenzyl)purine (100 mg, 0.36 mmol) was dissolved in 30 ml of sodium 2-mehoxyethoxide in 2-methoxyethanol and the solution was heated at 20° C. for 3 hours. The reaction mixture was concentrated in vacuo to dryness and to the residue was added water. The mixture was extracted with chloroform and the organic layer was washed with water, dried on sodium sulfate and concentrated in vacuo to dryness. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (109 mg, yield 95%).

reactant | 6-Amino-9-(4-fluorobenzyl)purine | 0.36 mmol, 100 mg | NC1=C2N=CN(C2=NC=N1)CC1=CC=C(C=C1)F | C12H10FN5
reactant | 2-methoxyethanol | COCCO | C3H8O2
solvent | sodium | 30 ml | [Na] | Na
product | 6-Amino-9-(4-fluorobenzyl)-2-(2-methoxyethoxy)purine | 109 mg, yield 95% | NC1=C2N=CN(C2=NC(=N1)OCCOC)CC1=CC=C(C=C1)F | C15H16FN5O2
